US08455522B2
Tin(II) chloride dihydrate (16.83 g, 74.6 mmol) was added to a solution of 4-bromo-5-fluoro-2-nitrophenol (4.4 g, 18.64 mmol) in ethanol (180 mL). The mixture was flushed with nitrogen and heated to 85° C. (oil bath temperature) for 1 day. The mixture was diluted with ethyl acetate (500 mL), saturated aqueous sodium bicarbonate (200 mL) was added with vigorous stirring. The mixture was filtered through celite and the celite pad was repeatedly washed with ethyl acetate. The two phases were separated and the organic phase was washed with brine. The combined aqueous phase was extracted with ethyl acetate. The combined organic phase was dried over MgSO4, filtered and concentrated to give 2-amino-4-bromo-5-fluorophenol. 1H NMR (400 MHz, DMSO-d6) δ ppm 4.61 (br. s., 2H) 6.60 (d, J=10.11 Hz, 1H) 6.76 (d, J=7.33 Hz, 1H) 9.69 (br. s., 1 H).

reactant | Tin(II) chloride dihydrate | 74.6 mmol, 16.83 g | O.O.[Sn](Cl)Cl
reactant | 4-bromo-5-fluoro-2-nitrophenol | 18.64 mmol, 4.4 g | BrC1=CC(=C(C=C1F)O)[N+](=O)[O-] | C6H3BrFNO3
solvent | ethanol | 180 mL | C(C)O | C2H6O
product | 2-amino-4-bromo-5-fluorophenol | NC1=C(C=C(C(=C1)Br)F)O | C6H5BrFNO
